US09056859B2
Step B: 5-[1-(ethyloxy)-2-piperazin-1-ylethyl]-4-methyl-2-benzofuran-1 (3H)-one hydrochloride
1,1-Dimethylethyl-4-[2-(ethyloxy)-2-(4-methyl-1-oxo-1,3-dihydro-2-benzofuran-5-yl)ethyl]piperazine-1-carboxylate was treated with 4M HCl in dioxane (4 mL) and stirred at room temperature for 1 h. The reaction mixture was concentrated to dryness. Analysis by LC indicated complete removal of the Boc group and formation of 5-[1-(ethyloxy)-2-piperazin-1-ylethyl]-4-methyl-2-benzofuran-1(3H)-one hydrochloride. LC-MS (IE, m/z): 305 [M+1]+; tR=0.69 min

reactant | 1,1-Dimethylethyl-4-[2-(ethyloxy)-2-(4-methyl-1-oxo-1,3-dihydro-2-benzofuran-5-yl)ethyl]piperazine-1-carboxylate | CC(C)(C)C1N(CCN(C1)CC(C1=C(C2=C(C(OC2)=O)C=C1)C)OCC)C(=O)[O-]
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 5-[1-(ethyloxy)-2-piperazin-1-ylethyl]-4-methyl-2-benzofuran-1 (3H)-one hydrochloride | Cl.C(C)OC(CN1CCNCC1)C1=C(C2=C(C(OC2)=O)C=C1)C | InChI=1S/C17H24N2O3.ClH/c1-3-21-16(10-19-8-6-18-7-9-19)13-4-5-14-15(12(13)2)11-22-17(14)20;/h4-5,16,18H,3,6-11H2,1-2H3;1H
